US08871753B2
Step E: 6-Chloro-2,4,8,17,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene
To a mixture of N-{3-[2-(4-aminopyridin-2-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride (90.0 mg, 0.21 mmol) and triethylamine (0.087 mL, 0.62 mmol) in dry 1,4-dioxane (1.8 mL) was added (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (7.2 mg, 0.013 mmol), palladium acetate (1.9 mg, 0.008 mmol) and cesium carbonate (135 mg, 0.42 mmol). The mixture was degassed by bubbling N2 through the solution. The sealed tube was then microwaved at 150° C. for 30 min. The reaction mixture was diluted with THF/MeOH, filtered, and concentrated to give the residue, which was purified by silica gel column chromatography to provide the desired product (24 mg, 36%) as a white powder. LCMS for C17H15ClN5 (M+H)+: m/z=324.0. 1H NMR (400 MHz, DMSO-d6): δ 9.69 (s, 1H), 9.28 (s, 1H), 8.15 (m, 3H), 7.74 (d, J=1.6 Hz, 1H), 7.27 (dd, J=16.0, 8.0 Hz, 1H), 7.07 (dd, J=12.4, 3.2 Hz, 2H), 6.84 (dd, J=5.6, 2.0 Hz, 1H), 2.93 (m, 4H).

reactant | N-{3-[2-(4-aminopyridin-2-yl)ethyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride | 0.21 mmol, 90.0 mg | Cl.Cl.NC1=CC(=NC=C1)CCC=1C=C(C=CC1)NC1=NC(=NC=C1Cl)Cl
reactant | triethylamine | 0.62 mmol, 0.087 mL | C(C)N(CC)CC | C6H15N
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.013 mmol, 7.2 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 0.42 mmol, 135 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 1.8 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.008 mmol, 1.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-Chloro-2,4,8,17,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | 24 mg, 36% | ClC=1C=NC=2NC=3C=CN=C(CCC4=CC=CC(NC1N2)=C4)C3 | C17H14ClN5
